US06630600B1
3-{4-[2-(4-Aminophenyl)ethoxy]phenyl}-(S)-2-ethoxypropanoic acid hydro chloride (0.2 g, 0.547 mmole) and sodium hydrogen carbonate (0.05 g, 0.595 mmole) were mixed in tetrahydrofurane (5 ml), stirred at room temperature for 20 minutes and then 4-tert-butylcyclohexyl chloroformate (0.131 g, 0.599 mmole) was added. The reaction mixture was stirred at room temperature overnight and then a little more 4-tert-butylcyclohexyl chloroformate was added since the reaction was not complete according to HPLC. The reaction mixture was stirred for 2 more hours and then evaporated to dryness. Ethyl acetate and water were added to the residue and the phases were separated. The organic phase was dried with magnesium sulfate and the solvent was evaporated. Chromatography on silica gel (Isolute, SI ) using dichloromethane:heptane (1:1), followed by dichloromethane, and then methanol: dichloromethane (1:99) as eluants gave 0.28 g (93% yield) (S)-2-ethoxy-3[4-(2-[4-([{4-(tert-butyl)cyclohexyl}oxy]carbonylamino)phenyl]ethoxy)phenyl]propanoic acid.

reactant | 3-{4-[2-(4-Aminophenyl)ethoxy]phenyl}-(S)-2-ethoxypropanoic acid hydro chloride | 0.547 mmole, 0.2 g | Cl.NC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C[C@@H](C(=O)O)OCC
reactant | sodium hydrogen carbonate | 0.595 mmole, 0.05 g | C(O)([O-])=O.[Na+]
reactant | 4-tert-butylcyclohexyl chloroformate | 0.599 mmole, 0.131 g | ClC(=O)OC1CCC(CC1)C(C)(C)C | C11H19ClO2
reactant | methanol dichloromethane | CO.ClCCl
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
product | (S)-2-ethoxy-3[4-(2-[4-([{4-(tert-butyl)cyclohexyl}oxy]carbonylamino)phenyl]ethoxy)phenyl]propanoic acid | 0.28 g, 93% yield | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)NC(=O)OC1CCC(CC1)C(C)(C)C | C30H41NO6
